US09339466B2
More specifically, to prepare ST-246 monohydrate, Form I, cycloheptatriene is reacted with maleic anhydride in the presence of toluene to yield the major product, endo isomer. The exo isomer is further produced from about 7% to 0.6% by crystallization from toluene/heptane. Further, hydrazine in the anhydrous or hydrate form is reacted with Methyl 4-(trifluoromethyl)benzoate in the presence of isopropanol to yield (4-(trifluoromethyl)-benzhydrazide. The product is then crystallized from isopropanol.

reactant | ST-246 monohydrate | C1[C@@H]2[C@H]1[C@@H]3C=C[C@H]2[C@@H]4[C@H]3C(=O)N(C4=O)NC(=O)C5=CC=C(C=C5)C(F)(F)F.O
reactant | cycloheptatriene | C1=CC=CC=CC1 | C7H8
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | hydrazine | NN | H4N2
reactant | Methyl 4-(trifluoromethyl)benzoate | FC(C1=CC=C(C(=O)OC)C=C1)(F)F | C9H7F3O2
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | toluene heptane | C1(=CC=CC=C1)C.CCCCCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(trifluoromethyl)-benzhydrazide | FC(C1=CC=C(C(=O)NN)C=C1)(F)F | C8H7F3N2O
